US05026712
5,6-Dihydro-8-(4-hydroxypheny)-3-methylimidazo[1,5-a]-pyridine
25 g (0.14 mol) of cyclopropyl 4-methoxyphenyl ketone is combined with 50 g (0.61 mol) of 2-methylimidazole and heated to 225° C. under nitrogen for 16 hr. The reaction is extracted with sodium hydroxide solution and the extract neutralized with ammonium chloride. Recrystallization from methylene chloride/methanol (1:1) provides the title compound.

reactant | cyclopropyl 4-methoxyphenyl ketone | 0.14 mol, 25 g | COC1=CC=C(C=C1)C(=O)C1CC1 | C11H12O2
reactant | 2-methylimidazole | 0.61 mol, 50 g | CC=1NC=CN1 | C4H6N2
product | 5,6-Dihydro-8-(4-hydroxypheny)-3-methylimidazo[1,5-a]-pyridine | OC1=CC=C(C=C1)C=1C=2N(CCC1)C(=NC2)C | C14H14N2O
